* SCR behavioral model
* Duane Hanselman 2007-08-21
.subckt SCRB A G C
D1 n1 G D
WSCR A n1 V1 Iswitch
V1 G C 0
.model D D
.model Iswitch CSW(Ron=0.1 Roff=1MEG It=1m)
.ends
*				Anode
*				| Cathode
*				|	| Trigger
*				|  	|	|
.subckt Scr_Edn	1	2	3
*
* Models used by the SCR model:
.model STH VSwitch	(ROn=0.1,VOff=0.5)
.model DLG D	(Rs =25m)
*
* We assume that the SCR in the on state is equivalent to 0.1 ohm:
SSCR	1 4 5 0 STH
VSCR	4 2	0V
*
* Trigger to cathode impedance is a 1k ohm resistance  for simplification:
RTrig	3 2 1k
*
* The following circuit locks in the on state when a 1mA current flows
* through the gate to the cathode with a positive anode to cathode voltage.
* This circuit locks in the off state when the current through ths SCR tends
* to become negative:
VPlus 6 0 2V
SiTrig	6 5 3 2	STH
CState 5 0 	1uF IC=0
DLogic 5 8	DLG
HCur 8 0 poly(1) VSCR 1 10000
*
* The potential of node 5 reflects the state of the SCR. It is less than 1V
* for the off state and between 1V and 2V in the on state.
.ends
*Default SCR - pin order: A G K
.SUBCKT XSCR  1 2 3
Q1 2 4 1 QPSCR AREA=.67 OFF
Q2 4 2 3 QNSCR AREA=.67
Q3 5 4 1 QPSCR AREA=.33 OFF
Q4 4 5 3 QNSCR AREA=.33
RBN 2 5 40
.MODEL QNSCR NPN(TF=400NS TR=1.6US CJC=75PF CJE=175PF XTB=2.5
+ IS=1E-14 ISE=3E-9 NE=2 BF=100 BR=25 ISC=3E-9 NC=2)
.MODEL QPSCR PNP(TF=90NS TR=180NS CJC=75PF CJE=80PF XTB=2.5 
+ IS=1E-14 ISE=3E-9 NE=2 BF=50 BR=25 ISC=3E-9 NC=2 RE=.03)
.ENDS XSCR

* IR 1200V If=110A tq=16us: A G K
.SUBCKT XS19CF 1 3 2
S1 1 5 6 2 SMOD
RG 3 4 50
VX 4 2 DC 0
VY 5 7 DC 0
DT 7 2 DMOD
RT 6 2 1
CT 6 2 10UF
BF1 2 6 I=50*I(VX)+11*I(VY)
.MODEL SMOD SW(VT=1 RON=0.0105 ROFF=100E5)
.MODEL DMOD D(IS=2.2E-15 BV=1200 TT=0 CJO=0)
.ENDS XS18CF

*Motorola 200V If=1.6A Igt=.2mA Vgt=.8V: A G K
.SUBCKT X2N2326   1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    40MEG
RR  1 4    26.6MEG
RGK 6 5    2.25k
RG  2 6    51.9
RK  3 5    43.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=.64F IBV=1U BV=200 RS=6MEG)
.MODEL ZR   D (IS=.64F IBV=1U BV=266)
.MODEL ZGK  D (IS=.64F IBV=1U BV=5)
.MODEL POUT PNP (IS=640F BF=1 CJE=1.34N)
.MODEL NOUT NPN (IS=640F BF=100 RC=.173
+ CJE=1.34N CJC=268P TF=80.1N TR=11.4U)
.ENDS X2N2326

*300V  8A
.SUBCKT X2N4171  1 2 3
*    TERMINALS:   A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    600K
RR  1 4    400K
RGK 6 5    112
RG  2 6    4.61
RK  3 5    8.13M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=3.2F IBV=100U BV=300 RS=90K)
.MODEL ZR   D (IS=3.2F IBV=100U BV=400)
.MODEL ZGK  D (IS=3.2F IBV=100U BV=5)
.MODEL POUT PNP (IS=3.2P BF=1 CJE=670P)
.MODEL NOUT NPN (IS=3.2P BF=100 RC=32.5M
+ CJE=670P CJC=134P TF=179N TR=25.5U)
.ENDS X2N4171 
* C106A  SCR  A G K  MCE  7-17-95
*MCE  100V  4A  pkg:TO-225AA
.SUBCKT XC106A   1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    22.2MEG
RR  1 4    14.8MEG
RGK 6 5    1.12K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=900N BV=100 RS=3.33MEG)
.MODEL ZR   D (IS=1.6F IBV=900N BV=133)
.MODEL ZGK  D (IS=1.6F IBV=900N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=418P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=418P CJC=83.7P TF=214N TR=68U)
.ENDS XC106A

* C106B  SCR  A G K  MCE  7-17-95
*MCE  200V  4A  pkg:TO-225AA
.SUBCKT XC106B   1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    44.4MEG
RR  1 4    29.6MEG
RGK 6 5    1.12K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=900N BV=200 RS=6.67MEG)
.MODEL ZR   D (IS=1.6F IBV=900N BV=266)
.MODEL ZGK  D (IS=1.6F IBV=900N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=418P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=418P CJC=83.7P TF=214N TR=68U)
.ENDS XC106B

* C106D  SCR  A G K  MCE  7-17-95
*MCE  400V  4A  pkg:TO-225AA
.SUBCKT XC106D   1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    88.9MEG
RR  1 4    59.2MEG
RGK 6 5    1.12K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=900N BV=400 RS=13.3MEG)
.MODEL ZR   D (IS=1.6F IBV=900N BV=533)
.MODEL ZGK  D (IS=1.6F IBV=900N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=418P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=418P CJC=83.7P TF=214N TR=68U)
.ENDS XC106D

* C106F  SCR  A G K  MCE  7-17-95
*MCE  50V  4A  pkg:TO-225AA
.SUBCKT XC106F   1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    11.1MEG
RR  1 4    7.4MEG
RGK 6 5    1.12K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=900N BV=50 RS=1.66MEG)
.MODEL ZR   D (IS=1.6F IBV=900N BV=66.6)
.MODEL ZGK  D (IS=1.6F IBV=900N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=418P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=418P CJC=83.7P TF=214N TR=68U)
.ENDS XC106F

* C106M  SCR  A G K  MCE  7-17-95
*MCE 600V  4A  pkg:TO-225AA
.SUBCKT XC106M   1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    133MEG
RR  1 4    88.9MEG
RGK 6 5    1.12K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=900N BV=600 RS=20MEG)
.MODEL ZR   D (IS=1.6F IBV=900N BV=800)
.MODEL ZGK  D (IS=1.6F IBV=900N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=418P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=418P CJC=83.7P TF=214N TR=68U)
.ENDS XC106M

*GE     A G K
.SUBCKT XC149M10 1 2 3
RGATE 2 5 20
VGS 5 1 0
SCRSW 3 4 6 1 SWMOD
CSWITCH 3 4 450PF
VAS 4 1 0
FSENSE 1 6 POLY(2) VGS VAS 0 50 11
RSENSE 6 1 1
CR 6 1 10UF
.MODEL SWMOD SW RON=0.0125 ROFF=103000 VT=1 VH=0
*.MODEL SSCR VSWITCH (RON=0.0125 ROFF=103000 VON=1 VOFF=0)
.ENDS XC149M10


* MCR100-3  SCR  A G K  MCE  7-17-95
*MCE MCR100-3 100V  800mA  pkg:TO-226AA
.SUBCKT XMCR1003 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    20MEG
RR  1 4    13.3MEG
RGK 6 5    6.25K
RG  2 6    9.17
RK  3 5    81.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=.32F IBV=1U BV=100 RS=3MEG)
.MODEL ZR   D (IS=.32F IBV=1U BV=133)
.MODEL ZGK  D (IS=.32F IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=67P)
.MODEL NOUT NPN (IS=320F BF=100 RC=.325
+ CJE=67P CJC=13.4P TF=56.6N TR=8.06U)
.ENDS XMCR1003

* MCR100-4  SCR  A G K  MCE  7-17-95
*MCE MCR100-4 200V  800mA  pkg:TO-226AA
.SUBCKT XMCR1004 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    40MEG
RR  1 4    26.6MEG
RGK 6 5    6.25K
RG  2 6    9.17
RK  3 5    81.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=.32F IBV=1U BV=200 RS=6MEG)
.MODEL ZR   D (IS=.32F IBV=1U BV=266)
.MODEL ZGK  D (IS=.32F IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=67P)
.MODEL NOUT NPN (IS=320F BF=100 RC=.325
+ CJE=67P CJC=13.4P TF=56.6N TR=8.06U)
.ENDS XMCR1004

* MCR100-6  SCR  A G K  MCE  7-17-95
*MCE MCR100-6 400V  800mA  pkg:TO-226AA
.SUBCKT XMCR1006 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    80MEG
RR  1 4    53.3MEG
RGK 6 5    6.25K
RG  2 6    9.17
RK  3 5    81.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=.32F IBV=1U BV=400 RS=12MEG)
.MODEL ZR   D (IS=.32F IBV=1U BV=533)
.MODEL ZGK  D (IS=.32F IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=67P)
.MODEL NOUT NPN (IS=320F BF=100 RC=.325
+ CJE=67P CJC=13.4P TF=56.6N TR=8.06U)
.ENDS XMCR1006

* MCR100-8  SCR  A G K  MCE  7-17-95
*MCE MCR100-8 600V  800mA  pkg:TO-226AA
.SUBCKT XMCR1008 1 2 3
*    TERMINALS:  A G K
*  600 Volt  .8 Amp  SCR  07-17-1995
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    120MEG
RR  1 4    80MEG
RGK 6 5    6.25K
RG  2 6    9.17
RK  3 5    81.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=.32F IBV=1U BV=600 RS=18MEG)
.MODEL ZR   D (IS=.32F IBV=1U BV=800)
.MODEL ZGK  D (IS=.32F IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=67P)
.MODEL NOUT NPN (IS=320F BF=100 RC=.325
+ CJE=67P CJC=13.4P TF=56.6N TR=8.06U)
.ENDS XMCR1008

* MCR106-2  SCR  A G K  MCE  7-17-95
*MCE MCR106-2  60V  4A  pkg:TO-225AA
.SUBCKT XMCR1062 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    15MEG
RR  1 4    10MEG
RGK 6 5    6.25K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=800N BV=60 RS=2.25MEG)
.MODEL ZR   D (IS=1.6F IBV=800N BV=80)
.MODEL ZGK  D (IS=1.6F IBV=800N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=60.3P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=60.3P CJC=12P TF=126N TR=18U)
.ENDS XMCR1062

* MCR106-3  SCR  A G K  MCE  7-17-95
*MCE MCR106-3  100V  4A  pkg:TO-225AA
.SUBCKT XMCR1063 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    25MEG
RR  1 4    16.6MEG
RGK 6 5    6.25K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=800N BV=100 RS=3.75MEG)
.MODEL ZR   D (IS=1.6F IBV=800N BV=133)
.MODEL ZGK  D (IS=1.6F IBV=800N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=60.3P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=60.3P CJC=12P TF=126N TR=18U)
.ENDS XMCR1063

* MCR106-4  SCR  A G K  MCE  7-17-95
*MCE MCR106-4  200V  4A  pkg:TO-225AA
.SUBCKT XMCR1064 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    50MEG
RR  1 4    33.3MEG
RGK 6 5    6.25K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=800N BV=200 RS=7.5MEG)
.MODEL ZR   D (IS=1.6F IBV=800N BV=266)
.MODEL ZGK  D (IS=1.6F IBV=800N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=60.3P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=60.3P CJC=12P TF=126N TR=18U)
.ENDS XMCR1064

* MCR106-6  SCR  A G K  MCE  7-17-95
*MCE MCR106-6  400V  4A  pkg:TO-225AA
.SUBCKT XMRC1066 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    100MEG
RR  1 4    66.6MEG
RGK 6 5    6.25K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=800N BV=400 RS=15MEG)
.MODEL ZR   D (IS=1.6F IBV=800N BV=533)
.MODEL ZGK  D (IS=1.6F IBV=800N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=60.3P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=60.3P CJC=12P TF=126N TR=18U)
.ENDS XMRC1066

* MCR106-8  SCR  A G K  MCE  7-17-95
*MCE MCR106-8  600V  4A  pkg:TO-225AA
.SUBCKT XMRC1068 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    150MEG
RR  1 4    100MEG
RGK 6 5    6.25K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=800N BV=600 RS=22.5MEG)
.MODEL ZR   D (IS=1.6F IBV=800N BV=800)
.MODEL ZGK  D (IS=1.6F IBV=800N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=60.3P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=60.3P CJC=12P TF=126N TR=18U)
.ENDS XMRC1068
*
.SUBCKT MCR08MT1 anode gate cathode PARAMS:
**************************************
*    Model Generated by EVAL LAB     *
*          July 23, 2003            *
*   Copyright(c) On Semiconductor    *
*         All Rights Reserved        *
*Commercial Use or Resale Restricted *
**************************************
*SCR
*MODEL FORMAT: PSpice
+ Vdrm=600v     Vrrm=600v     Idrm=10u
+ Ih=2.5ma        dVdt=10e6
* Vgt must be greater than 0.65v
+ Igt=6.5ua      Vgt=0.66v
+ Vtm=1.4v      Itm=1.0
+ Ton=2u        Toff=15u

* Where:
* Vdrm =>  Forward breakover voltage
* Vrrm =>  Reverse breakdown voltage
* Idrm =>  Peak blocking current
* Ih   =>  Holding current
* dVdt =>  Critical value for dV/dt triggering
* Igt  =>  Gate trigger current
* Vgt  =>  Gate trigger voltage
* Vtm  =>  On-state voltage
* Itm  =>  On-state current
* Ton  =>  Turn-on time
* Toff =>  Turn-off time

* Main conduction path
Scr      anode   anode0  control 0       Vswitch ; controlled switch
Dak1     anode0  anode2  Dakfwd  OFF             ; SCR is initially off
Dka      cathode anode0  Dkarev  OFF
VIak     anode2  cathode                         ; current sensor

* dVdt Turn-on
Emon     dvdt0   0       TABLE {v(anode,cathode)} (0 0) (2000 2000)
CdVdt    dvdt0   dvdt1   100pfd                  ; displacement current
Rdlay    dvdt1   dvdt2   1k
VdVdt    dvdt2   cathode DC 0.0
EdVdt    condvdt 0       TABLE {i(vdVdt)-100p*dVdt}  (0 0 ) (.1m 10)
RdVdt    condvdt 0       1meg

* Gate
Rseries  gate    gate1   {(Vgt-0.65)/Igt}
Rshunt   gate1   gate2   {0.65/Igt}
Dgkf     gate1   gate2   Dgk
VIgf     gate2   cathode                         ; current sensor

* Gate Turn-on
Egate1   gate4   0       TABLE {i(Vigf)-0.95*Igt} (0 0) (1m 10)
Rgate1   gate4   0       1meg
Egon1    congate 0       TABLE {v(gate4)*v(anode,cathode)} (0 0) (10 10)
Rgon1    congate 0       1meg

* Main Turn-on
EItot    Itot    0       TABLE {i(VIak)+5E-5*i(VIgf)/Igt} (0 0) (2000 2000)
RItot    Itot    0       1meg
Eprod    prod    0       TABLE {v(anode,cathode)*v(Itot)} (0 0) (1 1)
Rprod    prod    0       1meg
Elin     conmain 0       TABLE
+        {10*(v(prod) - (Vtm*Ih))/(Vtm*Ih)} (0 0) (2 10)
Rlin     conmain 0       1meg

* Turn-on/Turn-off control
Eonoff   contot  0       TABLE
+        {v(congate)+v(conmain)+v(condvdt)} (0 0) (10 10)

* Turn-on/Turn-off delays
Rton    contot  dlay1   825
Dton    dlay1   control Delay
Rtoff   contot  dlay2   {290*Toff/Ton}
Dtoff   control dlay2   Delay
Cton    control 0       {Ton/454}

* Reverse breakdown
Dbreak  anode   break1  Dbreak
Dbreak2 cathode break1  Dseries

* Controlled switch model
.MODEL Vswitch vswitch
+ (Ron = {(Vtm-0.7)/Itm}, Roff = {Vdrm*Vdrm/(Vtm*Ih)},
+  Von = 5.0,             Voff = 1.5)

* Diodes
.MODEL  Dgk     D       (Is=1E-16 Cjo=50pf Rs=5)
.MODEL  Dseries D       (Is=1E-14)
.MODEL  Delay   D       (Is=1E-12 Cjo=5pf  Rs=0.01)
.MODEL  Dkarev  D       (Is=1E-10 Cjo=5pf  Rs=0.01)
.MODEL  Dakfwd  D       (Is=4E-11 Cjo=5pf)
.MODEL  Dbreak  D       (Ibv=1E-7 Bv={1.1*Vrrm} Cjo=5pf Rs=0.5)

* Allow the gate to float if required
Rfloat  gate    cathode 1e10

.ENDS